US07157487B2
(Step 8) Synthesis of methyl 5-((2S,4S)-4-fluoro-2-pyrrolidinylmethoxy)pentanoate
Methyl 5-((2S,4S)-1-(tert-butoxycarbonyl)-4-fluoro-2-pyrrolidinylmethoxy)pentanoate (1.09 g, 3.27 mmol) was dissolved in methylene chloride (50 ml). At room temperature, trifluoroacetic acid (10 ml) was added to the resulting solution. The mixture was stirred at the same temperature for 3.5 hours. The residue obtained by distilling off the solvent under reduced pressure was diluted with methylene chloride (50 ml). The solution was basified with 1N NaOH, followed by extraction with methylene chloride. The extract was washed with saturated brine, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent, whereby the title compound (590 mg, 77%) was obtained as a yellow oil (this compound was provided for the subsequent reaction without further purification).

reactant | Methyl 5-((2S,4S)-1-(tert-butoxycarbonyl)-4-fluoro-2-pyrrolidinylmethoxy)pentanoate | 3.27 mmol, 1.09 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)F)COCCCCC(=O)OC | C16H28FNO5
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | methyl 5-((2S,4S)-4-fluoro-2-pyrrolidinylmethoxy)pentanoate | F[C@H]1C[C@H](NC1)COCCCCC(=O)OC | C11H20FNO3
